US04966967
9-(1H-Imidazol-1-yl)-4-[2-[4-[(methylsulfonyl)amino]phenyl]acetyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
In a manner similar to preparation 7, react 9-(1H-imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine, trimethylaluminum, and 4-[(methylsulfonyl)amino]benzeneacetic acid, methyl ester to obtain the title compound.

reactant | 9-(1H-imidazol-1-yl)-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCNCCO2)C=C1 | C13H15N3O2
reactant | trimethylaluminum | C[Al](C)C
reactant | 4-[(methylsulfonyl)amino]benzeneacetic acid, methyl ester | CS(=O)(=O)NC1=CC=C(C=C1)CC(=O)OC | C10H13NO4S
product | 9-(1H-Imidazol-1-yl)-4-[2-[4-[(methylsulfonyl)amino]phenyl]acetyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCN(CCO2)C(CC2=CC=C(C=C2)NS(=O)(=O)C)=O)C=C1 | C22H24N4O5S
